US05208228
Step F: 17-Ethyl-1,14-dihydroxy-12-(2'-(4"-azido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of 17-ethyl-1-hydroxy-14-(tertbutyldimethylsiloxy)-12-[2'-(4"-azido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (38 mg) in acetonitrile (1 ml) was added a solution of 2% HF in aqueous acetonitrile (150 μl), and the mixture stirred at room temperature. After 4.5 hours, the solution was diluted with ethyl acetate, extracted with saturated sodium bicarbonate solution and the organic phase dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane (1:2)+1% methanol) gave the title compound (22.5 mg).

reactant | 17-ethyl-1-hydroxy-14-(tertbutyldimethylsiloxy)-12-[2'-(4"-azido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 38 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N=[N+]=[N-])OC(C)C)C)C)O[Si](C)(C)C(C)(C)C)=O | C51H86N4O11Si
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | acetonitrile | 150 μl | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-Ethyl-1,14-dihydroxy-12-(2'-(4"-azido-3"-isopropyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 22.5 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)N=[N+]=[N-])OC(C)C)C)C)O)=O | C45H72N4O11
